US05696155
7,12-Dihydro-1H-4,13-dioxabenzo [4,5]cyclohepta [1,2-a] naphthalen-1,7-dione-3-carboxylic acid ethyl ester
8.04 g (30 mmol) 4-acetyl-6,11-dihydro-3-hydroxydibenz[b,e]oxepin-11-one is added to a solution of 4.14 g (180 mmol) sodium in 250 ml ethanol, it is heated for 10 minutes to reflux, cooled to room temperature, admixed with 14.6 g (100 mmol) diethyl oxalate, heated for 90 minutes to reflux, allowed to cool and filtered. The precipitate is taken up in 100 ml ethanol, the suspension is saturated with hydrogen chloride and subsequently heated for 1 hour to 50° C. After cooling it is poured onto ice and filtered. 7.8 g of the title compound (74% of theory) of melting point 178°-180° C. (from ethanol) remain.

reactant | 4-acetyl-6,11-dihydro-3-hydroxydibenz[b,e]oxepin-11-one | 30 mmol, 8.04 g | C(C)(=O)C1=C(C=CC2=C1OCC1=C(C2=O)C=CC=C1)O | C16H12O4
reactant | sodium | 180 mmol, 4.14 g | [Na] | Na
reactant | diethyl oxalate | 100 mmol, 14.6 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 7,12-Dihydro-1H-4,13-dioxabenzo [4,5]cyclohepta [1,2-a] naphthalen-1,7-dione-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC=2C=CC3=C(C2C(C1)=O)OCC1=C(C3=O)C=CC=C1 | C20H14O6
